US08754242B2
(1RS,2SR,6RS,7SR)-10-oxatricyclo[5.2.1.02,6]dec-8-ene-3,5-dione (2.1 g, 12.8 mmol), prepared in Step 1, is dissolved in warm methanol (180 ml) and the mixture is allowed to cool to room temperature. The mixture is then hydrogenated in the presence of 5% palladium on carbon (approx. 50 mg) at 3.5 bar for 4 hours. The catalyst is removed by filtration through diatomaceous earth and the filtrate is concentrated under reduced pressure to afford (1RS,2SR,6RS,7SR)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-10-oxatricyclo[5.2.1.02,6]dec-8-ene-3,5-dione | 12.8 mmol, 2.1 g | C12C3C(CC(C3C(C=C1)O2)=O)=O | C9H8O3
solvent | methanol | 180 ml | CO | CH4O
catalyst | palladium on carbon | approx. 50 mg | [Pd] | Pd
product | (1RS,2SR,6RS,7SR)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | C12C3C(CC(C3C(CC1)O2)=O)=O | C9H10O3
